US07482345B2
1-(2,6-difluorophenyl)-7-[(2,4-difluorophenyl)ethynyl]-2H-quinolizin-2-one
To a solution of 7-bromo-1-(2,6-difluorophenyl)-2H-quinolizin-2-one (100 mg) was added 1ethynyl-2,4-difluorobenzene (82 mg), triethylamine (0.17 ml), dichlorobis(triphenylphosphine)palladium (25 mg), CuI (6 mg) in DMF was heated to 100° C. until reaction complete. The mixture was diluted with ethyl acetate, washed with water (4×), brine, dried over MgSO4, and concentrated to yield crude material. The crude material was purified by silica gel chromatography (100% ethyl acetate) to yield the title compound.

reactant | 7-bromo-1-(2,6-difluorophenyl)-2H-quinolizin-2-one | 100 mg | BrC1=CN2C=CC(C(=C2C=C1)C1=C(C=CC=C1F)F)=O | C15H8BrF2NO
reactant | 1ethynyl-2,4-difluorobenzene | 82 mg | C(#C)C1=C(C=C(C=C1)F)F | C8H4F2
reactant | triethylamine | 0.17 ml | C(C)N(CC)CC | C6H15N
solvent | DMF | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | dichlorobis(triphenylphosphine)palladium | 25 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | CuI | 6 mg | [Cu]I
product | 1-(2,6-difluorophenyl)-7-[(2,4-difluorophenyl)ethynyl]-2H-quinolizin-2-one | FC1=C(C(=CC=C1)F)C=1C(C=CN2C=C(C=CC12)C#CC1=C(C=C(C=C1)F)F)=O | C23H11F4NO
